US04092150
To a stirred solution of 6.5 grams of 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile in 100 ml of acetone was added dropwise 7.4 grams of isopropylamine in 30 ml of acetone. Upon complete addition, the reaction mixture was stirred at room temperature for 16 hours. The acetone was removed by evaporation under reduced pressure, and the solid residue was washed with water. The resultant solid was collected by filtration to give 6.8 grams of 4-chloro-2-ethylamino-6-isopropylamino-5-pyrimidinecarbonitrile; mp 160°-165°. Recrystallization from a mixture of benzene and methylcyclohexane gave purified product; mp, 163°-165°.

reactant | 4,6-dichloro-2-ethylamino-5-pyrimidinecarbonitrile | 6.5 grams | ClC1=NC(=NC(=C1C#N)Cl)NCC | C7H6Cl2N4
reactant | isopropylamine | 7.4 grams | C(C)(C)N | C3H9N
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 4-chloro-2-ethylamino-6-isopropylamino-5-pyrimidinecarbonitrile | 6.8 grams | ClC1=NC(=NC(=C1C#N)NC(C)C)NCC | C10H14ClN5
